US06995171B2
To a solution of 15.2 g (46.2 mmol) 2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carboxylic acid ethyl ester, 80 mL of THF and 20 mL of absolute ethanol was added (13 g, 231 mmol) freshly ground potassium hydroxide. The reaction was stirred at room temperature for sixteen hours. The reaction was cooled to 0° C. and the pH was adjusted to pH 3 with conc HCl. The resulting yellow precipitate was filtered and dried to give 2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carboxylic acid (10.3 g) in 72% yield. C12H7N2O2S2: APCI m/z 310.2/312.2 (pos.); 1H NMR (d6-DMSO): δ 8.67 (d, 1H, J=5.0 Hz), 8.42 (s, 1H), 7.65 (d, 1H, J=5.0 Hz), 2.65 (s, 3H) ppm.

reactant | 2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carboxylic acid ethyl ester | 46.2 mmol, 15.2 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC2=NC=CC(=C2S1)Cl)C | C14H11ClN2O2S2
reactant | THF | 80 mL | C1CCOC1 | C4H8O
reactant | potassium hydroxide | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carboxylic acid | 10.3 g, 72% yield | ClC1=C2C(=NC=C1)C=C(S2)C=2SC(=C(N2)C)C(=O)O | C12H7ClN2O2S2
